US07622467B2
a. Preparation of 5-{(R)-2-[2-(4-amino-phenyl)-ethylamino]-1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-benzyloxy-1H-quinolin-2-one
A mixture of 5-(2-bromo-1-(tert-butyl-dimethyl-silanyloxy)-ethyl)-8-benzyloxy-1H-quinolin-2-one (5.0 g, 1.0 equiv) and 2-(4-aminophenyl)ethylamine (2.8 g, 2.0 equiv) in dimethylsulfoxide (10 mL) was heated at 100° C. for 12 h. The reaction mixture was cooled to 20° C., and the resulting red oil was diluted with ethyl acetate (200 mL) and extracted with two portions water (200 mL). The organic layer was washed with two portions of (1:1 10% aqueous acetic acid and saturated aqueous sodium chloride (200 mL). The organic layer was basified by carefully extracting with two portions of saturated sodium bicarbonate (200 mL), followed by saturated sodium chloride (200 mL). The resulting organic solution was treated with anhydrous sodium sulfate, and the solvent was removed under reduced pressure to afford the title intermediate (5.1 g) which was used without further purification.

reactant | 5-(2-bromo-1-(tert-butyl-dimethyl-silanyloxy)-ethyl)-8-benzyloxy-1H-quinolin-2-one | 5.0 g, 1.0 equiv | BrCC(O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C24H30BrNO3Si
reactant | 2-(4-aminophenyl)ethylamine | 2.8 g, 2.0 equiv | NC1=CC=C(C=C1)CCN | C8H12N2
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-{(R)-2-[2-(4-amino-phenyl)-ethylamino]-1-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-benzyloxy-1H-quinolin-2-one | 5.1 g | NC1=CC=C(C=C1)CCNC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C32H41N3O3Si
